US08859494B2
Methyl 3-[4-(1-phenoxymethylcyclopropylmethoxy)phenyl]-hex-4-ynoate
100 mg of methyl 3-[4-(1-hydroxymethylcyclopropylmethoxy)phenyl]hex-4-ynoate were dissolved in 10 ml of DCM and used to charge a microwave vessel, then 46.7 mg of phenol and 130 mg of triphenylphosphine (polymer-bound, Reagentplus 99%) were added, and the mixture was stirred for 10 min to swell the resin. Subsequently, 98 μl of diisopropyl azodicarboxylate were added and the mixture was stirred at 120° C. under microwave irradiation for 15 min. The cooled reaction mixture was filtered and the filtercake was washed 3× with 10 ml each time of DCM. The combined filtrates were washed with 30 ml of water, then dried using a ChemElut cartridge and concentrated under reduced pressure. The residue was purified by means of RP-HPLC. This gave 68 mg of methyl 3-[4-(1-phenoxymethylcyclopropylmethoxy)phenyl]hex-4-ynoate.

reactant | methyl 3-[4-(1-hydroxymethylcyclopropylmethoxy)phenyl]hex-4-ynoate | 100 mg | OCC1(CC1)COC1=CC=C(C=C1)C(CC(=O)OC)C#CC | C18H22O4
reactant | phenol | 46.7 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 130 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 98 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-[4-(1-phenoxymethylcyclopropylmethoxy)phenyl]-hex-4-ynoate | O(C1=CC=CC=C1)CC1(CC1)COC1=CC=C(C=C1)C(CC(=O)OC)C#CC | C24H26O4
